US04254122
Isobutylamine (1.60 g.) was added to acetic acid (1.20 g.) at 20°-25° C. during 15 minutes. 3-(4-Methylphenyl)-6-methylthiotetrahydro-1,3,5-triazine-2,4-dione (4.98 g.) was then added, and the whole mixture stirred at 120°-125° C. for 5 hours and then cooled. Water (50 ml.) was added and the mixture stirred thoroughly. The solid produced was collected by filtration, washed with water and dried to give 3-(4-methylphenyl)-6-isobutylaminotetrahydro-1,3,5-triazine-2,4-dione (4.90 g., 89%), m.p. 297°-301° C.

reactant | Isobutylamine | 1.60 g | C(C(C)C)N | C4H11N
reactant | acetic acid | 1.20 g | C(C)(=O)O | C2H4O2
reactant | 3-(4-Methylphenyl)-6-methylthiotetrahydro-1,3,5-triazine-2,4-dione | 4.98 g | CC1=CC=C(C=C1)N1C(NC(NC1=O)SC)=O | C11H13N3O2S
solvent | Water | 50 ml | O | H2O
product | 3-(4-methylphenyl)-6-isobutylaminotetrahydro-1,3,5-triazine-2,4-dione | 4.90 g, 89% | CC1=CC=C(C=C1)N1C(NC(NC1=O)NCC(C)C)=O | C14H20N4O2
